US04272377
8.25 val of 4,4'-diphenylmethane-diisocyanate, which contains its own dimers and trimers (Isonate 143 L), are introduced into a reactor together with 2.5 val of isophorone-diisocyanate and then heated to an internal temperature of 80° C. while stirring and leading in nitrogen to provide an inert atmosphere, the reaction, continuing until a clear solution is present. In the meantime, in a second reactor, a solution of 0.9 val of castor oil and 1.3 val of trimethylolpropane is produced within about 1 hour at 90° C. The trimethylolpropane/castor oil solution after cooling to 70° C. is then added over a one hour period to the isocyanate solution preheated to 80° C. The temperature which increases as a result of the exothermic reaction may reach a maximum of 100° C. However, the reaction temperature should be regulated by cooling so as not to exceed 90° C. The reaction mixture is caused to react for a period of 2 hours, up until the mixture has reached an isocyanate content of 19.3 to 19.7 percent by weight.

reactant | Isonate | 143 L | C1=CC(=CC=C1CC2=CC=C(C=C2)N=C=O)N=C=O | C15H10N2O2
reactant | isophorone-diisocyanate | [N-]=C=O.[N-]=C=O.O=C1C=C(CC(C)(C)C1)C
product | trimethylolpropane | C(O)C(CC)(CO)CO | C6H14O3
